US06316482B1
A solution of 3-methoxy-N-methyl-N-(4-methyl-2-benzyloxyphenyl)-4-[2-(tert-butoxycarbonyl)aminomethyl-1H-benzimidazol-4-yl]carbonylaminobenzamide (260 mg) in 90% trifluoroacetic acid (2 ml) was stirred at ambient temperature for 2 hours and the solvent was evaporated in vacuo. The residue was stirred with chloroform (10 ml) and saturated aqueous sodium hydrogencarbonate (10 ml) and the organic phase was separated. The solution was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by NH type silica gel column (chloroform) to give 4-(2-aminomethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-(4-methyl-2-benzyloxyphenyl)benzamide (130 mg).

reactant | 3-methoxy-N-methyl-N-(4-methyl-2-benzyloxyphenyl)-4-[2-(tert-butoxycarbonyl)aminomethyl-1H-benzimidazol-4-yl]carbonylaminobenzamide | 260 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCC2=CC=CC=C2)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)CNC(=O)OC(C)(C)C | C37H39N5O6
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-aminomethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-(4-methyl-2-benzyloxyphenyl)benzamide | 130 mg | NCC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCC1=CC=CC=C1)C)C=C2)OC | C32H31N5O4
